US04139542
The autoclave is charged with 50.0 g. of allyl alcohol (861 mmol.), 111.7 g. of isobutanol (1.50 mol.). 0.202 g. of hexarhodium hexadecacarbonyl (0.189 mmol.. 1.14 meq. Rh), 9.6 of triphenylphosphine (36.6 mmol.) and 2.86 g. of phthalic acid (17.2 mmol.), then heated at 125° C. under replenished 800-1200 psi 1:1 H2 /CO for one hour. Quantitative glpc analysis of the product mixture shows the presence of 61.0 g. 2-isobutoxytetrahydrofuran (49% yield) identified based on ir, nmr. and mass spectra which are in complete accord with the assignment. Another product present in relatively minor amount is isolated and identified as 3-(α-tetrahydrofuranyloxy)-2-methyl-propionaldehyde on the basis of its i r spectrum.

reactant | allyl alcohol | 861 mmol | C(C=C)O | C3H6O
reactant | isobutanol | 1.50 mol | C(C(C)C)O | C4H10O
reactant | triphenylphosphine | 36.6 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalic acid | 17.2 mmol | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
catalyst | hexarhodium hexadecacarbonyl | 0.189 mmol, 1.14 meq | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Rh].[Rh].[Rh].[Rh].[Rh].[Rh]
product | 2-isobutoxytetrahydrofuran | 49% yield | C(C(C)C)OC1OCCC1 | C8H16O2
